US05104664
100 ml of BORACOL--40% weight disodium octaborate tetrahydrate and 60% ethylene glycol, undiluted (approx. 8.36% B content by weight) was prepared for comparison.

reactant | BORACOL--40 | 100 ml | B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].B(O)([O-])[O-].O.O.O.O.[Na+].[Na+]
solvent | ethylene glycol | C(CO)O | C2H6O2
product | disodium octaborate tetrahydrate | O.O.O.O.B([O-])([O-])O.B(O)(O)O.B(O)(O)O.B(O)(O)O.B(O)(O)O.B(O)(O)O.B(O)(O)O.B(O)(O)O.[Na+].[Na+] | InChI=1S/7BH3O3.BHO3.2Na.4H2O/c8*2-1(3)4;;;;;;/h7*2-4H;2H;;;4*1H2/q;;;;;;;-2;2*+1;;;;
